US08193164B2
Step IF2: [(R)-1-(4-tert-Butoxycarbonylamino-cyclohexylcarbamoyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester
(4-tert-Butoxycarbonylamino-cyclohexyl)-carbamic acid phenyl ester (1 eq.) and (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester (1 eq.) are dissolved in NMP and heated at 100° C. for 1 hour.

reactant | (4-tert-Butoxycarbonylamino-cyclohexyl)-carbamic acid phenyl ester | 1 eq. | C1(=CC=CC=C1)OC(NC1CCC(CC1)NC(=O)OC(C)(C)C)=O | C18H26N2O4
reactant | (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester | 1 eq. | C(C)(C)(C)OC(N[C@H]1CNCC1)=O | C9H18N2O2
solvent | NMP | CN1CCCC1=O | C5H9NO
product | [(R)-1-(4-tert-Butoxycarbonylamino-cyclohexylcarbamoyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CC1)C(NC1CCC(CC1)NC(=O)OC(C)(C)C)=O)=O | C21H38N4O5
